* source ECE351HW3
R_R1         N00381 N00377 750 
R_R2         N00373 N00366 2k 
C_C1         N00388 0 100u 
I_I1         N00388 N00426 DC 0.004785
V_V2         N00366 0  DC 15
V_V3         0 N00426  DC 15
V_V4         N00381 0 
+SIN 0 4 3k 0 0 0
V_V5         N01149 0  DC 15
V_V7         0 N01395  DC 15
R_R3         N01179 N01149 20.23k 
Q_Q3         N01179 N01575 N01395 Qb400 
M_M1         0 N01179 N01575 N01575 power_Mb200           
M_M2         0 N01179 N01575 N01575 power_Mbreakn           
Q_Q4         N01575 N01575 N01395 Qb400 
Q_Q5         N00373 N00377 N00388 Qb200 
Q_Q6         N02409 N02285 N02321 QbreakN 
Q_Q7         N02397 N02409 N02285 QbreakN 
Q_Q8         0 N02285 N02321 Qb800 
R_R4         N02285 N02321 10k 
R_R5         N02397 N02409 600k 
V_V8         N02397 0  DC 15
V_V9         0 N02321  DC 15
