* source ECE250HW2
V_V1         VIN 0 PWL
+ TIME_SCALE_FACTOR={1/1k}
+ VALUE_SCALE_FACTOR=15
+repeat forever
+(0,0) (0.25,1) (0.75,-1) (1,0)
+endrepeat
R_R1         VOM VOP 3k 
R_R2         VIN VOP 1k 
R_R3         N00180 VOM 1k 
R_R5         VIN2 VO2 1k 
R_R6         0 VO2 1k 
V_V2         VIN2 0 PWL
+ TIME_SCALE_FACTOR={1/1}
+ VALUE_SCALE_FACTOR=15
+repeat forever
+(0,0) (0.25,1) (0.75,-1) (1,0)
+endrepeat
D_D3         VIN2 VO2 Dbreak 
V_V3         VIN3 0  DC 0
M_M1         VO3 VIN3 0 0 Mbreakn           
R_R7         VO3 N01361 10k 
V_Vcc         N01361 0  DC 5
M_M2         VO4 VIN4 0 0 MbreakN           
M_M3         N01634 VIN4 VO4 VO4 MbreakN           
V_V4         N01634 0  DC 5
V_V5         VIN4 0  DC 0
.model         S_D1 VSWITCH Roff=1e6 Ron=0.1 Voff=0 Von=1m
S_SD1         VIN VOP VIN VOP S_D1
.model         S_D2 VSWITCH Roff=1e6 Ron=0.1 Voff=0 Von=1m
S_SD2         0 N00180 0 N00180 S_D2
