* source ECE250HW9
Q_Q1         VOUT N00250 0 Q1 
R_Rc         VOUT N00222 6.2k 
R_R1         N00250 N00222 1500k 
R_R2         0 N00250 750k 
V_Vcc         N00222 0  DC 12
V_V1         N00631 0  DC 13
V_V2         0 N00642  DC 13
V_V3         N00620 0  DC 3
R_R3         N00627 N00631 5.1k 
Q_Q2         N00627 N00620 N00682 Q2 
I_I1         N00682 N00642 DC 1mA  
