* source ECE250HW3
V_V1         VIN 0 PWL
+ TIME_SCALE_FACTOR={1/60}
+ VALUE_SCALE_FACTOR=15
+repeat forever
+(0,0) (0.25,1) (0.75,-1) (1,0)
+endrepeat
R_R1         0 VOUT 1k 
V_V2         VIN2 0 PWL
+ TIME_SCALE_FACTOR={1/60}
+ VALUE_SCALE_FACTOR=30
+repeat forever
+(0,0) (0.25,1) (0.75,-1) (1,0)
+endrepeat
V_V3         VIN3 0 PWL
+ TIME_SCALE_FACTOR={1/60}
+ VALUE_SCALE_FACTOR=15
+repeat forever
+(0,0) (0.25,1) (0.75,-1) (1,0)
+endrepeat
R_R6         VIN VOUT 1k 
D_D9         VIN VOUT D1N4733 
R_R7         VIN2 VX 1k 
C_C1         N05391 0 100u 
C_C2         0 N05395 100u 
V_V7         N05391 0  DC 15
V_V8         0 N05395  DC 15
X_U1A         VX 0 N05391 N05395 VOUT2 TL084/301/TI
D_D12         VX N05391 D1N4004 
D_D13         N05395 VX D1N4004 
R_R8         VIN3 N07041 1k 
R_R9         N06975 0 500 
R_R10         N07003 0 1k 
R_R11         N07011 VOUT3N 500 
R_R12         VOUT3P VOUT3N 1k 
R_R14         VOUT4N VOUT4P 1k 
V_V9         VIN4 0 PWL
+ TIME_SCALE_FACTOR={1/60}
+ VALUE_SCALE_FACTOR=15
+repeat forever
+(0,0) (0.25,1) (0.75,-1) (1,0)
+endrepeat
D_D18         VIN4 VOUT4P D1N4733 
D_D19         0 VOUT4N D1N4733 
.model         S_D14 VSWITCH Roff=1e6 Ron=0.1 Voff=0 Von=1m
S_SD14         N07041 VOUT3P N07041 VOUT3P S_D14
.model         S_D15 VSWITCH Roff=1e6 Ron=0.1 Voff=0 Von=1m
S_SD15         N06975 VOUT3P N06975 VOUT3P S_D15
.model         S_D16 VSWITCH Roff=1e6 Ron=0.1 Voff=0 Von=1m
S_SD16         N07011 VIN3 N07011 VIN3 S_D16
.model         S_D17 VSWITCH Roff=1e6 Ron=0.1 Voff=0 Von=1m
S_SD17         VOUT3N N07003 VOUT3N N07003 S_D17
