* source ECE351HW10
V_V1         VIN 0 
+SIN 0 14 1 0 0 0
X_U1         N00547 VIN VCC VEE VO LF411C/301/TI
V_V2         VCC 0  DC 15
V_V3         0 VEE  DC 15
D_D1         N00532 VO D1N914 
R_R1         N00532 N00547 10k 
R_R2         N00547 0 5k 
V_V4         VIN2 N01036 
+SIN 0 2.4 1 0 0 0
V_V5         VCC2 0  DC 5
X_U2A         N01076 VIN2 VCC2 0 VO2 LM324
D_D2         VO2 N01076 D1N914 
R_R3         N01076 VCC2 40k 
R_R4         N01076 0 10k 
V_V6         N01036 0  DC 2.5
