* source ECE351PRELAB10
X_U1         0 N00382 VCC -VEE VO LM741
V_V1         VCC 0  DC 15
V_V2         0 -VEE  DC 15
R_Rf         N00382 VO 10k 
R_R1         VIN N00382 100 
V_V3         VIN 0  AC 1 0
