* source ECE351PRELAB8
R_R1         VIN VOUT 10k 
R_R2         VOUT 0 100 
C_C1         VIN VOUT 0.1u 
V_V1         VIN 0  AC 1 0
R_R3         VIN2 N00477 1k 
R_R4         VOUT2 0 1k 
C_C2         N00477 VOUT2 1u 
C_C3         VOUT2 0 10n 
V_V2         VIN2 0  AC 1 0
